US04824843
Thionyl chloride, 37 ml, is added dropwise with stirring to 39.7 g (0.1575 mol) of N-(2-hydroxy-1,1-dimethylethyl)-2-methyl-3-nitrobenzamide. The mixture is allowed to stand overnight, poured into diethylether, filtered and the solvent evaporated to give 33.4 g of 4,5-dihydro-4,4-dimethyl-2-(2-methyl-3-nitrophenyl)oxazole as a pale yellow oil which crystallizes on cooling; mp 60°-61° C.

reactant | Thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | N-(2-hydroxy-1,1-dimethylethyl)-2-methyl-3-nitrobenzamide | 0.1575 mol, 39.7 g | OCC(C)(C)NC(C1=C(C(=CC=C1)[N+](=O)[O-])C)=O | C12H16N2O4
solvent | diethylether | C(C)OCC | C4H10O
product | 4,5-dihydro-4,4-dimethyl-2-(2-methyl-3-nitrophenyl)oxazole | 33.4 g | CC1(N=C(OC1)C1=C(C(=CC=C1)[N+](=O)[O-])C)C | C12H14N2O3
